US06846958B2
2,4-Dihydroxybenzoic acid was reacted with sodium hydride and benzyl bromide in dimethylformamide (DMF) to give a compound protected with benzyl groups at hydroxyl and carboxylic acids moieties in a 91% yield. The benzyl group was removed from the carboxylic acid moiety by refluxing it with 2 N sodium hydroxide in dioxane, followed by acidifying the mixture, to give 2,4-dibenzyloxybenzoic acid in 83% yield.

reactant | 2,4-Dihydroxybenzoic acid | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,4-dibenzyloxybenzoic acid | 83% yield | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O4
